### PR TITLE
[Merged by Bors] - feat(Algebra/Group/Subgroup/ZPowers): add Int.closure_eq_zmultiples

### PR DESCRIPTION
**Pull request by tdM05**
- Show that for `a b : ℤ`, `AddSubgroup.closure {a, b} = AddSubgroup.zmultiples (a.gcd b : ℤ)`
- Used Claude to find the names of relevant theorems to use. However, I wrote the whole proof on my own.

### CODE REVIEW

File: Mathlib/Algebra/Group/Subgroup/ZPowers/Lemmas.lean [hunk 1]
```diff
@@ -69,4 +71,22 @@ lemma range_nsmulAddMonoidHom (n : ℕ) : (nsmulAddMonoidHom n).range = zmultipl
...
+    · rw [h1]
+      exact Int.mem_zmultiples_iff.mpr (Int.gcd_dvd_left a b)
+    · rw [h1]
+      exact Int.mem_zmultiples_iff.mpr (Int.gcd_dvd_right a b)
+  · apply AddSubgroup.zmultiples_le.mpr
+    apply AddSubgroup.mem_closure_pair.mpr
+    have key1 : a.gcd b = a * a.gcdA b + b * a.gcdB b := Int.gcd_eq_gcd_ab a b
+    rw [key1]
+    use a.gcdA b,  a.gcdB b
+    ring
```
Comment (SnirBroshi) [inline Mathlib/Algebra/Group/Subgroup/ZPowers/Lemmas.lean]:
```suggestion
    simp [mul_comm]
```
will let you avoid importing `ring`

File: Mathlib/Algebra/Group/Subgroup/ZPowers/Lemmas.lean [hunk 2]
```diff
@@ -69,4 +71,22 @@ lemma range_nsmulAddMonoidHom (n : ℕ) : (nsmulAddMonoidHom n).range = zmultipl
...
+    simp only [Set.mem_insert_iff, Set.mem_singleton_iff] at hx
+    rcases hx with h1 | h1
+    · rw [h1]
+      exact Int.mem_zmultiples_iff.mpr (Int.gcd_dvd_left a b)
+    · rw [h1]
+      exact Int.mem_zmultiples_iff.mpr (Int.gcd_dvd_right a b)
+  · apply AddSubgroup.zmultiples_le.mpr
+    apply AddSubgroup.mem_closure_pair.mpr
+    have key1 : a.gcd b = a * a.gcdA b + b * a.gcdB b := Int.gcd_eq_gcd_ab a b
+    rw [key1]
```
Comment (SnirBroshi) [inline Mathlib/Algebra/Group/Subgroup/ZPowers/Lemmas.lean]: `rw` can also rewrite using iff theorems
```suggestion
  · rw [AddSubgroup.zmultiples_le, AddSubgroup.mem_closure_pair, Int.gcd_eq_gcd_ab]
```

File: Mathlib/Algebra/Group/Subgroup/ZPowers/Lemmas.lean [hunk 3]
```diff
@@ -69,4 +71,22 @@ lemma range_nsmulAddMonoidHom (n : ℕ) : (nsmulAddMonoidHom n).range = zmultipl
...
+    use a.gcdA b,  a.gcdB b
```
Comment (SnirBroshi) [inline Mathlib/Algebra/Group/Subgroup/ZPowers/Lemmas.lean]:
```suggestion
    use a.gcdA b, a.gcdB b
```
but also `simp` is smart enough to figure this out, so you can actually remove this line
```suggestion
```

File: Mathlib/Algebra/Group/Subgroup/ZPowers/Lemmas.lean [hunk 4]
```diff
@@ -69,4 +70,18 @@ lemma range_nsmulAddMonoidHom (n : ℕ) : (nsmulAddMonoidHom n).range = zmultipl
   simp [mem_zmultiples_iff, dvd_def]
   grind
 
+theorem closure_eq_zmultiples (a b : ℤ) :
+    AddSubgroup.closure {a, b} = AddSubgroup.zmultiples (a.gcd b : ℤ) := by
```
Comment (SnirBroshi) [inline Mathlib/Algebra/Group/Subgroup/ZPowers/Lemmas.lean]: You can take advantage of the `open AddSubgroup` above
```suggestion
theorem closure_eq_zmultiples (a b : ℤ) : closure {a, b} = zmultiples (a.gcd b : ℤ) := by
```

File: Mathlib/Algebra/Group/Subgroup/ZPowers/Lemmas.lean [hunk 5]
```diff
@@ -69,4 +70,18 @@ lemma range_nsmulAddMonoidHom (n : ℕ) : (nsmulAddMonoidHom n).range = zmultipl
...
+  apply le_antisymm
+  · apply (AddSubgroup.closure_le (AddSubgroup.zmultiples (a.gcd b : ℤ))).mpr
```
Comment (SnirBroshi) [inline Mathlib/Algebra/Group/Subgroup/ZPowers/Lemmas.lean]: `rw` for iffs, and it can figure out the arguments:
```suggestion
  · rw [closure_le]
```

File: Mathlib/Algebra/Group/Subgroup/ZPowers/Lemmas.lean [hunk 6]
```diff
@@ -69,4 +70,18 @@ lemma range_nsmulAddMonoidHom (n : ℕ) : (nsmulAddMonoidHom n).range = zmultipl
...
+    intro x hx
+    simp only [Set.mem_insert_iff, Set.mem_singleton_iff] at hx
+    rcases hx with h1 | h1
+    · rw [h1]
+      exact Int.mem_zmultiples_iff.mpr (Int.gcd_dvd_left a b)
+    · rw [h1]
+      exact Int.mem_zmultiples_iff.mpr (Int.gcd_dvd_right a b)
```
Comment (SnirBroshi) [inline Mathlib/Algebra/Group/Subgroup/ZPowers/Lemmas.lean]: `rcases` will substitute the equality for you if you name the hypothesis `rfl`:
```suggestion
    rcases hx with rfl | rfl
    · exact mem_zmultiples_iff.mpr <| gcd_dvd_left x b
    · exact mem_zmultiples_iff.mpr <| gcd_dvd_right a x
```

File: Mathlib/Algebra/Group/Subgroup/ZPowers/Lemmas.lean [hunk 7]
```diff
@@ -69,4 +70,18 @@ lemma range_nsmulAddMonoidHom (n : ℕ) : (nsmulAddMonoidHom n).range = zmultipl
...
+  · rw [AddSubgroup.zmultiples_le, AddSubgroup.mem_closure_pair, Int.gcd_eq_gcd_ab]
+    simp [mul_comm]
```
Comment (SnirBroshi) [inline Mathlib/Algebra/Group/Subgroup/ZPowers/Lemmas.lean]: These can be combined:
```suggestion
  · simp [zmultiples_le, mem_closure_pair, gcd_eq_gcd_ab, mul_comm]
```

File: Mathlib/Algebra/Group/Subgroup/ZPowers/Lemmas.lean [hunk 8]
```diff
@@ -69,4 +70,18 @@ lemma range_nsmulAddMonoidHom (n : ℕ) : (nsmulAddMonoidHom n).range = zmultipl
   simp [mem_zmultiples_iff, dvd_def]
   grind
 
+theorem closure_eq_zmultiples (a b : ℤ) :
+    AddSubgroup.closure {a, b} = AddSubgroup.zmultiples (a.gcd b : ℤ) := by
+  apply le_antisymm
+  · apply (AddSubgroup.closure_le (AddSubgroup.zmultiples (a.gcd b : ℤ))).mpr
+    intro x hx
+    simp only [Set.mem_insert_iff, Set.mem_singleton_iff] at hx
```
Comment (SnirBroshi) [inline Mathlib/Algebra/Group/Subgroup/ZPowers/Lemmas.lean]: This is redundant
```suggestion
```

**Comment by tdM05** [comment]
@SnirBroshi thanks for all the suggestions. I learned a lot!

File: Mathlib/Algebra/Group/Subgroup/ZPowers/Lemmas.lean [hunk 9]
```diff
@@ -69,4 +70,13 @@ lemma range_nsmulAddMonoidHom (n : ℕ) : (nsmulAddMonoidHom n).range = zmultipl
   simp [mem_zmultiples_iff, dvd_def]
   grind
 
+theorem closure_eq_zmultiples (a b : ℤ) : closure {a, b} = zmultiples (a.gcd b : ℤ) := by
+  apply le_antisymm
+  · rw [closure_le]
+    intro x hx
+    rcases hx with rfl | rfl
```
Comment (SnirBroshi) [inline Mathlib/Algebra/Group/Subgroup/ZPowers/Lemmas.lean]: `rintro` = `intro` + `rcases`
```suggestion
    rintro x (rfl | rfl)
```

File: Mathlib/Algebra/Group/Subgroup/ZPowers/Lemmas.lean [hunk 10]
```diff
@@ -69,4 +70,13 @@ lemma range_nsmulAddMonoidHom (n : ℕ) : (nsmulAddMonoidHom n).range = zmultipl
...
+    · exact mem_zmultiples_iff.mpr <| gcd_dvd_left x b
+    · exact mem_zmultiples_iff.mpr <| gcd_dvd_right a x
+  · simp [zmultiples_le, mem_closure_pair, gcd_eq_gcd_ab, mul_comm]
```
Comment (YanYablonovskiy) [inline Mathlib/Algebra/Group/Subgroup/ZPowers/Lemmas.lean:76]: Consider the following golf, and feel free to message me to learn what is happening and why
```suggestion
  apply le_antisymm
  · grind [mem_zmultiples_iff, SetLike.mem_coe, gcd_dvd_left, gcd_dvd_right, closure_le]
  · simp [zmultiples_le, mem_closure_pair, gcd_eq_gcd_ab, mul_comm]
```

Comment (YanYablonovskiy) [reply Mathlib/Algebra/Group/Subgroup/ZPowers/Lemmas.lean:76]: Can also have a look at the edit history on this comment to see me trimming it down if it helps learn.

Comment (tdM05) [reply Mathlib/Algebra/Group/Subgroup/ZPowers/Lemmas.lean:76]: Keeping the intro, and rcases tactics are more intuitive to me. It allows the reader of the proof to understand quickly why it works, not just that it works. Grind on the other hand, seems like it is more of a blackbox (or it could be I don't understand it well enough).

Of course, I am new to this, and this may not be the correct way of thinking, so I would appreciate what others think about this. Are automated tactics like grind prefered, and if so, why? Though I do realize automated tactics allow the proof to take up fewer lines so that may be the reason. I get that I use simp as well for the other direction of the proof, so my question applies here as well.

Comment (SnirBroshi) [reply Mathlib/Algebra/Group/Subgroup/ZPowers/Lemmas.lean:76]: > what others think about this

IMO the first version in the edit history was not an improvement, but this new version is nice (i.e. compacting the first direction using `grind`).

A good way to read proofs with "hammers" such as `simp`/`grind`/`aesop`/`tauto` is: "and the rest is trivial, thanks to the theorems listed here".

I like to also order the theorems roughly in the order they're used in the manual proof, which hopefully helps read it, even though the order doesn't matter.
e.g. I'd move `closure_le` to be first on the list, since that's the gist of the proof.

Comment (tdM05) [reply Mathlib/Algebra/Group/Subgroup/ZPowers/Lemmas.lean:76]: Oh I see. Thanks for the feedback!

Comment (YanYablonovskiy) [reply Mathlib/Algebra/Group/Subgroup/ZPowers/Lemmas.lean:76]: > Keeping the intro, and rcases tactics are more intuitive to me. It allows the reader of the proof to understand quickly why it works, not just that it works. Grind on the other hand, seems like it is more of a blackbox (or it could be I don't understand it well enough).
> 


You are right in some sense, there is some inherent decisions made between structured proofs and such automation.

  It depends on the lemma, lemmas like these are typically not giving much math insight and are left unsaid n pen-and-paper math, as obvious to the readers brain so to speak. Lean needs all the fine details though, so we provide it but do not necessarily want to give every step. Even just using tactic mode technically obscures many of the finer formalisation related details.

  However , `grind` / `simp` are not magic,  so typically if something like that does work for a direction, it may indicate the result isn't too insightful relative to mathlib (i.e. given the `simp` / other tactic tagged lemmas in the library it can deduce it ). 

  Depending on use case, you may want more or less steps, when teaching Lean you certainly may avoid solvers like `grind`, but for mathlib you do not typically assume there is a need to.

   I also think this one isn't too bad though in readability either, the `apply` tells you the principle used and what to expect from directions, and as Snir said the tactics and their list of arguments say something like "it follows by routine/obvious/trivial deductions from the following" ( potentially implicitly by contradiction ).

**Comment by j-loreaux** [comment]
bors merge
